Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pregnancy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ yo G2P0 at ___ with painful contractions, bloody show.
DEnies LOF. +FM. Patient with pressured speech, denies history 
of
bipolar disorder. Does endorse taking a "non-narcotic" from her
family member about 4 days ago which was either tramadol or
dilaudid, patient does not recall which, for her contractions.
She also noted bloody show since yesterday.
 
Past Medical History:
PNC: 
- ___ ___ per FOB, patient does not recall exact due date
- Prenatal labs unavailable, patient does not recall but states
all were normal
- Patient denies ever taking a GLT
- Issues
*) unclear prenatal care situation, unable to recount name of
office, MD or location to obtain records
*) pressured speech - ED records from ___ with an episode of
erratic behavior and altered mental status at which time her 
UTox
was positive only for opiates and she was treated for a UTI.

OBHx:
- G1 TAB via D&C
- G2 current
 
GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: 
- anxiety/ADHD, has taken Xanax and Adderall in the past, denies
taking any of these since pregnant
 
PSH: 
- denies 

Meds: PNV
 
All: NKDA
 
 
Social History:
 denies T/E/D
 
Physical Exam:
 
Physical Exam on Admission:
VS: pending
Gen: A&O, comfortable
CV: RRR
PULM: normal work of breathing
Abd: soft, gravid, nontender
EFW 7 by ___
Ext: no calf tenderness
SVE: 6-___/90/0
Toco q4min
FHT 125/moderate varability/+accels/-decels

TAUS: vertex

Physical Exam on Discharge:
OBJECTIVE:
 Vitals: ___ Temp: 98.2 PO BP: 95/65 HR: 95 RR: 18 O2
sat: 97% O2 delivery: room air Pain Score: ___ 
 General: NAD, A&Ox3
 Lungs: No respiratory distress
 Abd: soft, nontender, fundus firm at 2 bcm below umbilicus
 Lochia: minimal
 Extremities: no calf tenderness, no edema

 
Pertinent Results:
___ 10:00AM BLOOD WBC-11.8* RBC-3.64* Hgb-10.0*# Hct-29.9* 
MCV-82 MCH-27.5 MCHC-33.4 RDW-13.6 RDWSD-41.0 Plt ___
___ 03:57PM BLOOD WBC-18.4*# RBC-4.78 Hgb-13.1 Hct-38.9 
MCV-81*# MCH-27.4 MCHC-33.7 RDW-13.6 RDWSD-39.9 Plt ___
___ 10:00AM BLOOD Neuts-84.6* Lymphs-8.3* Monos-4.7* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-9.99* AbsLymp-0.98* 
AbsMono-0.56 AbsEos-0.11 AbsBaso-0.05
___ 03:57PM BLOOD HBsAg-NEG
___ 03:57PM BLOOD HIV Ab-NEG
___ 03:57PM BLOOD HCV Ab-NEG
___ 09:30AM URINE Color-Straw Appear-Hazy* Sp ___
___ 09:30AM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG*
___ 03:58PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 09:30AM URINE RBC-<1 WBC-5 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:58AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 03:58PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG marijua-NEG
 
Brief Hospital Course:
Ms. ___ had a spontaneous vaginal delivery on ___ 
which was complicated by likely a placental abruption and 
postpartum endometritis. 

*)postpartum course/postpartum endometritis
She had a spontaneous vaginal delivery on ___. her course 
was complicated by postpartum endometritis detailed below. She 
also had pain control issues on tylenol and ibuprofen but had 
normal vital signs and a reassuring exam. Her vaginal bleeding 
was within normal limits. She was tolerating a regular diet, 
voiding, ambulating without issue by day two after vaginal 
delivery. On postpartum day 2, she spiked a temperature of 
101.6F. Her WBC count was 11.8 with a left shift of 84.6 and no 
bands. Her UA was equivocal and consistent with lochia 
contamination. Her urine culture showed no growth. She was then 
started on IV gentamicin and clindamycin for 24 hours afebrile, 
she was first afebrile on ___ at 1140. She continued to remain 
afebrile and completed her course of antibiotics. She was then 
deemed stable for discharge with plan for postpartum follow up. 
''

*)social situation
The patient's admission was complicated by positive opiates on 
urine toxicology screen. She was seen by social work and DCF. 

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
Do not exceed 4000 mg in a day  
RX *acetaminophen 500 mg ___ tablet(s) by mouth Q6HR Disp #*50 
Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Moderate Pain 
Do not exceed 2400 mg in a day. Take with food. ___ cause 
stomach upset 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6HR Disp #*50 Tablet 
Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

Congratulations on the birth of your baby! You have recovered 
well and the team now feels that you are ready to go home. 
Please follow these instructions below. 
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 100.4 or 
above, abdominal pain, heavy vaginal bleeding, nausea/vomiting, 
depression, or any other concerns.
 
Followup Instructions:
___